US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was reacted with 4-chlorometyl-2-(5-cyano-2-thienyl)oxazole to obtain 2-(5-cyano-2-thienyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 70%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 73-74° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chlorometyl-2-(5-cyano-2-thienyl)oxazole | ClCC=1N=C(OC1)C=1SC(=CC1)C#N | C9H5ClN2OS
product | 2-(5-cyano-2-thienyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 70% | C(#N)C1=CC=C(S1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C21H18N4O2S
